US07074799B2
Stir a mixture of 2-amino-4(3-trifluoromethyl-pyridin-2-yl)-benzo-nitrile (0.50 mmol) in 70% H2SO4 (10 ml) at 110° C. for 1 hour. Cool to room temperature, neutralize with NaOH, extract with EtOAc, dry over Na2SO4, and concentrate under vacuum. Purify the residue by flash chromatography (3:2 hexanes/EtOAc) to give 2-amino-4-(3-trifluoromethyl-pyridin-2-yl)-benzamide.

reactant | 2-amino-4(3-trifluoromethyl-pyridin-2-yl)-benzo-nitrile | 0.50 mmol | NC1=C(C#N)C=CC(=C1)C1=NC=CC=C1C(F)(F)F | C13H8F3N3
reactant | NaOH | [OH-].[Na+]
solvent | H2SO4 | 10 ml | OS(=O)(=O)O | H2O4S
product | 2-amino-4-(3-trifluoromethyl-pyridin-2-yl)-benzamide | NC1=C(C(=O)N)C=CC(=C1)C1=NC=CC=C1C(F)(F)F | C13H10F3N3O
